US07192968B2
5-(tert-Butoxycarbonyl)-2-methoxycarbonyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine
Sodium cyanide (220 mg) and manganese dioxide (780 mg) were added to a solution of 5-(tert-butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine (225 mg) in methanol (9.0 ml) at room temperature. After stirring for 30 minutes, the reaction mixture was filtered through Celite with ethyl acetate. The filtrate was washed with water (50 ml) and saturated saline (50 ml) and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:2→1:1) to obtain the title compound (120 mg) as a colorless amorphous substance.

reactant | Sodium cyanide | 220 mg | [C-]#N.[Na+]
reactant | 5-(tert-butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine | 225 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(O2)C=O | C12H16N2O4
reactant | methanol | 9.0 ml | CO | CH4O
catalyst | manganese dioxide | 780 mg | [O-2].[O-2].[Mn+4]
product | 5-(tert-Butoxycarbonyl)-2-methoxycarbonyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine | 120 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(O2)C(=O)OC | C13H18N2O5
